US04847256
A mixture of 75.0 g of m-chloropropiophenone and 200 ml of N,N-dimethylformamide dimethyl acetal was stirred and heated at reflux for 16 hours. The mixture was evaporated in vacuo to give a black oil. The oil was subjected to Kugelrohr distillation at 0.5 mm of mercury and the fraction that boils at 110° C. was removed. The residue from the distillation was collected to give 35.0 g of 3'-chloro-3-dimethylamino-2-methylacrylophenone as a black oil.

reactant | m-chloropropiophenone | 75.0 g | ClC=1C=C(C=CC1)C(CC)=O | C9H9ClO
reactant | N,N-dimethylformamide dimethyl acetal | 200 ml | COC(N(C)C)OC | C5H13NO2
product | 3'-chloro-3-dimethylamino-2-methylacrylophenone | 35.0 g | ClC=1C=C(C=CC1)C(C(=CN(C)C)C)=O | C12H14ClNO
